US07652009B2
Step 1: Preparation of 1-(3-fluoro-4-methoxyphenyl)-5-oxopyrrolidine-3-carboxylic acid
A mixture of 3-fluoro-4-methoxybenzenamine (7.5 g, 0.053 mmol) and itaconic acid (6.9 g, 0.053 mmol) was heated to 110° C. for 2 h. The yellow solid was dissolved in 100 mL of MeOH and concentrated in vacuo. The resulting solid was washed with 50% EtOAc/hexanes to give the title compound as a light yellow solid. MS (ESI pos. ion) m/z: 254.2 (M+H). Calc'd Exact Mass for C12H12FNO4: 253.23.

reactant | 3-fluoro-4-methoxybenzenamine | 0.053 mmol, 7.5 g | FC=1C=C(C=CC1OC)N | C7H8FNO
reactant | itaconic acid | 0.053 mmol, 6.9 g | C(C(=C)CC(=O)O)(=O)O | C5H6O4
solvent | MeOH | 100 mL | CO | CH4O
product | 1-(3-fluoro-4-methoxyphenyl)-5-oxopyrrolidine-3-carboxylic acid | FC=1C=C(C=CC1OC)N1CC(CC1=O)C(=O)O | C12H12FNO4
